US05464838
4-(4-chlorobenzyl)-2-[5-(N-methyl-N-benzylamino)-1-carboxy-t-butyl-3-pentyl]-1(2H)-phthalazinone
3 g sodium hydride (80%, in white oil) are added to 21.6 g 4(4-chlorobenzyl)-1(2H)-phthalazinone in 200 ml dimethylacetamide (DMA) with cooling in an ice bath. 37 g 6-(N-methyl -N-benzylamino )-4-methylsulfonyloxy-caproic acid-t-butyl ester in 80 ml DMA are then added dropwise with cooling and stirring continued for 0.5 hour. The mixture is allowed to warm slowly--overnight--to room temperature and is then heated for 2 hours to 40° C.-50° C. The mixture is hydrolyzed by addition of 200 ml water with ice cooling. The precipitated oil is separated and dissolved in dichloromethane. After extraction twice with water, the organic phase is dried and concentrated. The residue is chromatographed over silica gel (Eluent: dichloromethane/methanol/ammonia 25% 95:4:1). 3.5 g are obtained (yellow oil).

reactant | sodium hydride | 3 g | [H-].[Na+]
reactant | 4(4-chlorobenzyl)-1(2H)-phthalazinone | 21.6 g | ClC1=CC=C(CC2=NNC(C3=CC=CC=C23)=O)C=C1 | C15H11ClN2O
reactant | 6-(N-methyl -N-benzylamino )-4-methylsulfonyloxy-caproic acid-t-butyl ester | 37 g | C(C)(C)(C)OC(CCC(CCN(CC1=CC=CC=C1)C)OS(=O)(=O)C)=O | C19H31NO5S
reactant | water | 200 ml | O | H2O
solvent | dimethylacetamide | 200 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 80 ml | CC(=O)N(C)C | C4H9NO
product | 4-(4-chlorobenzyl)-2-[5-(N-methyl-N-benzylamino)-1-carboxy-t-butyl-3-pentyl]-1(2H)-phthalazinone | ClC1=CC=C(CC2=NN(C(C3=CC=CC=C23)=O)C(CC(C(=O)O)C(C)(C)C)CCN(CC2=CC=CC=C2)C)C=C1 | C33H38ClN3O3
